US08008505B2
21.2 1-(3-Fluoro-4-nitro-phenoxy)-cyclopropanecarboxylic acid tert-butyl ester
In analogy to the procedure described in example 15.2, 4-bromo-2-(3-fluoro-4-nitro-phenoxy)-butyric acid tert-butyl ester was treated with potassium tert-butoxide in THF to afford the title compound as a brown solid. MS: m/e=298.3 [M+H+].

reactant | 4-bromo-2-(3-fluoro-4-nitro-phenoxy)-butyric acid tert-butyl ester | C(C)(C)(C)OC(C(CCBr)OC1=CC(=C(C=C1)[N+](=O)[O-])F)=O | C14H17BrFNO5
reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
solvent | THF | C1CCOC1 | C4H8O
product | 1-(3-Fluoro-4-nitro-phenoxy)-cyclopropanecarboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)C1(CC1)OC1=CC(=C(C=C1)[N+](=O)[O-])F | C14H16FNO5
